US07713979B2
1-Cyclohex-2-enyl-3-(2,4-dichloro-benzyl)-pyrrolidin-2-one
Charge a flask with 3-(2,4-dichloro-benzyl)-pyrrolidin-2-one (Preparation 19) (100 mg, 0.41 mmol), dissolve in THF (4 mL) and cool to 0° C. under nitrogen. Add NaH (15 mg, 0.61 mmol) and stir at 0° C. for 20 minutes. Add 3-bromo-cyclohexene (198 mg, 1.23 mmol) and stir at room temperature overnight. Pour into saturated aqueous sodium bicarbonate and extract with methylene chloride. Dry over sodium sulfate, filter and concentrate. Purify residue over silica gel (5:1 hexanes:ethyl acetate) to afford 68 mg (51%) of the title compound as a white solid. Mass spectrum (apci) m/z=324.1 (M+H).

reactant | 3-(2,4-dichloro-benzyl)-pyrrolidin-2-one | 0.41 mmol, 100 mg | ClC1=C(CC2C(NCC2)=O)C=CC(=C1)Cl | C11H11Cl2NO
reactant | NaH | 0.61 mmol, 15 mg | [H-].[Na+]
reactant | 3-bromo-cyclohexene | 1.23 mmol, 198 mg | BrC1C=CCCC1 | C6H9Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-Cyclohex-2-enyl-3-(2,4-dichloro-benzyl)-pyrrolidin-2-one | 68 mg, 51% | C1(C=CCCC1)N1C(C(CC1)CC1=C(C=C(C=C1)Cl)Cl)=O | C17H19Cl2NO
